US04154731
In the method of the Reference Example 1, 4,5-dimethoxyanthranilic acid was reacted in the place of anthranilic acid to obtain α-[(2-carboxy-4,5-dimethoxyphenyl)-amino]-γ-butyrolactone, melting point: 214° C.(decomp.).

reactant | 4,5-dimethoxyanthranilic acid | COC=1C=C(C(C(=O)O)=CC1OC)N | C9H11NO4
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
product | α-[(2-carboxy-4,5-dimethoxyphenyl)-amino]-γ-butyrolactone | C(=O)(O)C1=C(C=C(C(=C1)OC)OC)NC1C(=O)OCC1 | C13H15NO6
